US06232476B1
To a solution of crude 3-(2-Bromo-5-methoxy-phenyl)-1-phenyl-propan-1-one (19.43 g, 61 mmol) in dry ethylene glycol (300 ml) under a N2 atmosphere was added chlorotrimethylsilane (31 ml, 0.25 mol). The reaction was stirred at room temperature for 1 h. A 5% aqueous NaHCO3 (300 ml) was added. The mixture was extracted with diisopropyl ether, and the extracts were washed with brine. The combined ether extracts were dried with Na2SO4 and the solvent was removed under reduced pressure to produce a weight of 21.52 g crude 2-[2-(2-Bromo-5-methoxy-phenyl)-ethyl]-2-phenyl-[1,3]dioxolane (yield: 97%).

reactant | 3-(2-Bromo-5-methoxy-phenyl)-1-phenyl-propan-1-one | 61 mmol, 19.43 g | BrC1=C(C=C(C=C1)OC)CCC(=O)C1=CC=CC=C1 | C16H15BrO2
reactant | chlorotrimethylsilane | 0.25 mol, 31 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | NaHCO3 | 300 ml | C(=O)(O)[O-].[Na+]
solvent | ethylene glycol | 300 ml | C(CO)O | C2H6O2
product | 2-[2-(2-Bromo-5-methoxy-phenyl)-ethyl]-2-phenyl-[1,3]dioxolane | 21.52 g, yield: 97% | BrC1=C(C=C(C=C1)OC)CCC1(OCCO1)C1=CC=CC=C1 | C18H19BrO3
